US08232403B2
To a mixture of lithium aluminum hydride (42.5 g, 1.12 mol) in THF (1200 mL) is carefully added crude 8-ethoxycarbonylmethyl-1,4-dioxaspiro[4.5]decane (174.7 g) in THF solution (640 mL) at 0° C. under argon atmosphere. After stirring for 10 min at ambient temperature, Na2SO4-10H2O (360.9 g) is added at 0° C., and the mixture is stirred for additional 3 hours. Insoluble matter is filtered and washed with EtOAc, and the filtrate is concentrated in vacuo to afford crude 2-(1,4-dioxaspiro[4.5]dec-8-yl)ethanol (139.5 g). The crude product is used without further purification.

reactant | lithium aluminum hydride | 1.12 mol, 42.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-ethoxycarbonylmethyl-1,4-dioxaspiro[4.5]decane | 174.7 g | C(C)OC(=O)CC1CCC2(OCCO2)CC1 | C12H20O4
solvent | THF | 1200 mL | C1CCOC1 | C4H8O
solvent | THF | 640 mL | C1CCOC1 | C4H8O
product | 2-(1,4-dioxaspiro[4.5]dec-8-yl)ethanol | 139.5 g | O1CCOC12CCC(CC2)CCO | C10H18O3
